US06498165B1
2-[(S)-1-Phenyl-2-hydroxyethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with (S)-1-phenyl-2-hydroxyethylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (CI): m/e 332.2 (M+1). 1H NMR (500 Mz, CD3OD): δ partial 8.58 (br s, 1H); 8.38 (s, 1H); 7.69 (d, J=7.3 Hz, 1H); 7.47 (d, J=7.3 Hz, 2H); 7.02 (d, J=5.5 Hz, 1H); 5.16 (s, 1H); 3.81-3.91 (m, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | (S)-1-phenyl-2-hydroxyethylamine | C1(=CC=CC=C1)[C@@H](CO)N | C8H11NO
product | 2-[(S)-1-Phenyl-2-hydroxyethylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@@H](CO)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C19H17N5O
